US05308854
Step C: Preparation of 3-[2-(4,7-dimethylbenzoxazol-2-yl)ethyl]-5-ethyl-6-methyl-2(1H)-pyridinone
A mixture of crude 2-methoxy-3-[2-(4,7-dimethylbenzoxazol-2-yl)ethyl]-5-ethyl-6-methylpyridine (161 mg, 0.49 mmol) and pyridine hydrochloride (574 mg, 4.97 mmol) was warmed in a pre-heated oil bath at 140° C. for 15 minutes. The cooled residue was diluted with water and the product extracted into chloroform. This extract was dried (Na2SO4), filtered and the solvent evaporated. This residue was chromatographed on silica gel and eluted with a 0.5 to 2.5% methanol/chloroform gradient to yield 65 mg of pure product. The product was crystallized from diethyl ether to give 38 mg, m.p. 151.5°-153° C.

reactant | 2-methoxy-3-[2-(4,7-dimethylbenzoxazol-2-yl)ethyl]-5-ethyl-6-methylpyridine | 0.49 mmol, 161 mg | COC1=NC(=C(C=C1CCC=1OC2=C(N1)C(=CC=C2C)C)CC)C | C20H24N2O2
reactant | pyridine hydrochloride | 4.97 mmol, 574 mg | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | 3-[2-(4,7-dimethylbenzoxazol-2-yl)ethyl]-5-ethyl-6-methyl-2(1H)-pyridinone | 65 mg | CC1=CC=C(C2=C1N=C(O2)CCC=2C(NC(=C(C2)CC)C)=O)C | C19H22N2O2
